US05665718
1.4 g (4 mmol) of (S)-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one were stirred at room temperature for 1 hour with 5.2 g (90 mmol) of propylamine and 15 ml of N,N-dimethylformamide. By evaporation of the reaction mixture and chromatography of the residue on silica gel while eluting with methylene chloride/methanol 19/1 there were obtained 1.07 g (73%) of (S)-1-(5-propylaminomethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a]-[1,4]benzodiazepin-9-one, which was converted into the hydrochloride (amorphous).

reactant | (S)-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 4 mmol, 1.4 g | ClCC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | C16H12ClN5O2
reactant | propylamine | 90 mmol, 5.2 g | C(CC)N | C3H9N
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (S)-1-(5-propylaminomethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a]-[1,4]benzodiazepin-9-one | 1.07 g, 73% | C(CC)NCC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | C19H20N6O2
